US07319098B2
Synthesis of 4-(2-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-4-morpholinium chloride (Compound 79)
2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 2-morpholinoethane amine (103 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 93 mg (63%) was obtained by following the procedure described in Example 1.

reactant | 2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC=C1 | C16H10ClNO4
reactant | 2-morpholinoethane amine | 0.792 mmol, 103 μL | O1CCN(CC1)CCN | C6H14N2O
product | 4-(2-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-4-morpholinium chloride | [Cl-].ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCC[NH+]2CCOCC2)=O)C=CC=C1 | InChI=1S/C22H22ClN3O4.ClH/c23-19-4-2-1-3-16(19)14-26-21(28)17-6-5-15(13-18(17)22(26)29)20(27)24-7-8-25-9-11-30-12-10-25;/h1-6,13H,7-12,14H2,(H,24,27);1H
